US04391627
N-[(4-methoxy-6-methylpyrimidin-2-yl)aminocarbonyl]benzothiophene-3-sulfonamide
To 25 ml of anhydrous acetonitrile containing 1.4 g of 2-amino-4-methoxy-6-methylpyrimidine was added 2.4 g of benzothiophene-3-sulfonyl isocyanate with stirring. The mixture was heated to boiling, allowed to cool to room temperature and then stirred overnight. The resultant precipitate was filtered off and washed with ether to yield 2 g of the desired product, m.p. 180°-181° C. It showed absorption by NMR (60 MC) at 2.24 δ (6-CH3 group), 3.8 δ (4-OCH3), 6.2 δ (5-H on pyrimidine), 7-8 δ (aryl H's on benzo) and 8.3 δ (H on thiophene portion).

reactant | 2-amino-4-methoxy-6-methylpyrimidine | NC1=NC(=CC(=N1)OC)C | C6H9N3O
reactant | benzothiophene-3-sulfonyl isocyanate | 2.4 g | S1C=C(C2=C1C=CC=C2)S(=O)(=O)N=C=O | C9H5NO3S2
solvent | acetonitrile | 25 ml, 1.4 g | C(C)#N | C2H3N
product | N-[(4-methoxy-6-methylpyrimidin-2-yl)aminocarbonyl]benzothiophene-3-sulfonamide | 2 g | COC1=NC(=NC(=C1)C)NC(=O)NS(=O)(=O)C1=CSC2=C1C=CC=C2 | C15H14N4O4S2
